US07176210B2
Preparation of Intermediate 1-[2-(2-Chlorophenyl)-3-iodopyrazolo[1,5-a]pyrimidin-7-yl]-4-ethylaminopiperidine-4-carboxylic Acid Amide (I-1A-1h)
To a solution of 7-chloro-2-(2-chlorophenyl)-3-iodopyrazolo[1,5-a]pyrimidine (I-1A-1d; 80 mg, 0.21 mmol) and triethylamine (44 μl, 0.32 mmol) in 1:1 ethanol/methylene chloride (2 ml) was added 4-ethylaminopiperidine-4-carboxylic acid amide (I-1A-1g; 40 mg, 0.23 mmol). A colorless precipitate formed after several minutes and the mixture was stirred overnight. The solid precipitate was isolated by vacuum filtration, washed with ethanol and ether, and then dried, in vacuo, to afford product I-1A-1h as an off-white solid (95 mg, 86%): +APcI MS (M+1) 525.4; 1H NMR (400 MHz, CD3OD) δ 8.27 (d, J=5.4 Hz, 1H), 7.55 (d, J=7.5 Hz, 1H), 7.48–7.39 (m, 3H), 6.45 (d, J=5.6 Hz, 1H), 4.14–3.96 (m, 2H), 3.92–3.84 (m, 2H), 2.50 (q, J=7.1 Hz, 2H), 2.23–2.15 (m, 2H), 1.85–1.77 (m, 2H), 1.16 (t, J=7.1 Hz, 3H).

reactant | 7-chloro-2-(2-chlorophenyl)-3-iodopyrazolo[1,5-a]pyrimidine | 0.21 mmol, 80 mg | ClC1=CC=NC=2N1N=C(C2I)C2=C(C=CC=C2)Cl | C12H6Cl2IN3
reactant | triethylamine | 0.32 mmol, 44 μl | C(C)N(CC)CC | C6H15N
reactant | 4-ethylaminopiperidine-4-carboxylic acid amide | 0.23 mmol, 40 mg | C(C)NC1(CCNCC1)C(=O)N | C8H17N3O
solvent | ethanol methylene chloride | 2 ml | C(C)O.C(Cl)Cl
product | 1-[2-(2-Chlorophenyl)-3-iodopyrazolo[1,5-a]pyrimidin-7-yl]-4-ethylaminopiperidine-4-carboxylic Acid Amide | 95 mg, 86% | ClC1=C(C=CC=C1)C1=NN2C(N=CC=C2N2CCC(CC2)(C(=O)N)NCC)=C1I | C20H22ClIN6O
